US04548947
A suspension of 300 g of 4-trifluoromethylcinnamic acid (J. Org. Chem. 43:980 (1980) and 25 ml of concentrated sulfuric acid in 1.7 liters of ethanol is heated to reflux for 24 hours. The solution is concentrated, cooled, and filtered to give as a white solid, 4-trifluoromethylcinnamic acid ethyl ester, mp 40°-41° C.

reactant | 4-trifluoromethylcinnamic acid | 300 g | FC(C1=CC=C(C=CC(=O)O)C=C1)(F)F | C10H7F3O2
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1.7 liters | C(C)O | C2H6O
product | 4-trifluoromethylcinnamic acid ethyl ester | C(C)OC(C=CC1=CC=C(C=C1)C(F)(F)F)=O | C12H11F3O2
